US07855294B2
2) (3R,4R)-4-(2-chloro-4-fluorophenyl)piperidin-3-ol
3.62 g of the entitled compound was obtained as a pale orange solid from the latter fraction (retention time: 14.8 min) in the same method as in Production Example 25-3, for which, however, tert-butyl 4-(2-chloro-4-fluorophenyl)-3,6-dihydro-2H-pyridine-1-carboxylate was used in place of tert-butyl 4-(2-chlorophenyl)-3,6-dihydro-2H-pyridine-1-carboxylate used in Production Example 25-3, and an optically-active column (Daicel's CHRALPAK AD column, 2 cm×25 cm; 0.1% diethylamine, hexane/ethanol=9/1; flow rate, 20 mL/min) was sued for the optical resolution.

reactant | tert-butyl 4-(2-chloro-4-fluorophenyl)-3,6-dihydro-2H-pyridine-1-carboxylate | ClC1=C(C=CC(=C1)F)C=1CCN(CC1)C(=O)OC(C)(C)C | C16H19ClFNO2
reactant | diethylamine | C(C)NCC | C4H11N
reactant | hexane ethanol | CCCCCC.C(C)O
product | (3R,4R)-4-(2-chloro-4-fluorophenyl)piperidin-3-ol | ClC1=C(C=CC(=C1)F)[C@@H]1[C@H](CNCC1)O | C11H13ClFNO
